US05292901
5-{2-(Methylsulfonyl)ethyl}-1,3-benzodioxole
3.5 g of 5-{2-(methylthio)ethyl}-1,3-benzodioxole was dissolved in 100 ml of chloroform. 8.8 g of m-chloroperbenzoic acid was added to the solution under cooling with ice/water to conduct the reaction for 2 h. 300 ml of chloroform and 300 ml of water were added thereto and then sodium carbonate was added to the mixture until the aqueous layer became alkaline. After separation of the layers, the chloroform layer was washed with water twice and dried over sodium sulfate. The solvent was distilled off under reduced pressure. After recrystallization from ethyl acetate/isopropyl ether, 3 g of the intended compound was obtained in the form of colorless needles.

reactant | 5-{2-(methylthio)ethyl}-1,3-benzodioxole | 3.5 g | CSCCC1=CC2=C(OCO2)C=C1 | C10H12O2S
reactant | m-chloroperbenzoic acid | 8.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | 300 ml | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-{2-(Methylsulfonyl)ethyl}-1,3-benzodioxole | 3 g | CS(=O)(=O)CCC1=CC2=C(OCO2)C=C1 | C10H12O4S
